US07700657B2
(f) (E)-3-[3-(tert-Butyldimethylsilanyloxy)phenyl]pent-2-en-1-al
In a manner analogous to example 1j, by reaction of 6.7 g (23 mmol) of (E)-3-[3-(tert-butyldimethylsilanyloxy)phenyl]pent-2-en-1-ol with 10 g (115 mmol) of manganese dioxide. A yellow oil is obtained (m=4.7 g; Y=71%).

reactant | (E)-3-[3-(tert-butyldimethylsilanyloxy)phenyl]pent-2-en-1-ol | 23 mmol, 6.7 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)/C(=C/CO)/CC | C17H28O2Si
catalyst | manganese dioxide | 115 mmol, 10 g | [O-2].[O-2].[Mn+4]
product | (E)-3-[3-(tert-Butyldimethylsilanyloxy)phenyl]pent-2-en-1-al | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)/C(=C/C=O)/CC | C17H26O2Si
